US06265411B1
4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (338 mg, 1 mmol) was dissolved in THF (20 ml) at 40° C., and 1-diethoxymethyloxindole (705 mg, 3 mmol), (prepared according to Synthesis 1975, 168), and sodium hydride (138 mg, 5.8 mmol, pre-washed with petroleum ether) were added successively to the solution at ambient temperature. After stirring for 45 minutes, the volatiles were removed by evaporation and the residue dissolved in methylene chloride. The solution was washed with an aqueous saturated sodium chloride solution, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column flash chromatography using methylene chloride/ethyl acetate (1/1) followed by an increasingly polar mixture of methylene chloride and methanol (2 to 4%) as eluent. The purified product was triturated with ether. collected by filtration, washed with a 1/1 mixture of ether/petroleum ether and dried under vacuum to give 4-(1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (425 mg, 84%) as a yellow-orange solid.

reactant | 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 1 mmol, 338 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 1-diethoxymethyloxindole | 3 mmol, 705 mg | C(C)OC(N1C(CC2=CC=CC=C12)=O)OCC | C13H17NO3
reactant | sodium hydride | 5.8 mmol, 138 mg | [H-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 425 mg, 84% | C(C)OC(N1C(C(C2=CC=CC=C12)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)=O)OCC | C29H36N4O6
